US07943622B2
Step 2. Synthesis of (5-(2-chlorophenyl)thiophen-2-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(5-(2-chlorophenyl)thiophene-2-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (75.9 mg, 0.121 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The desired chromatography fractions were concentrated under reduced pressure, dissolved in MeOH (1 mL), and treated with 4 M HCl in 1,4-dioxane (6 mL). This was concentrated under reduced pressure, yielding 23.8 mg (40%) of the desired product as a white solid. LC-MS: RT=5.27 min, [M+H]+=414.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(5-(2-chlorophenyl)thiophene-2-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.121 mmol, 75.9 mg | OC(=O)C(F)(F)F.ClC1=C(C=CC=C1)C1=CC=C(S1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
solvent | MeOH | 1 mL | CO | CH4O
product | (5-(2-chlorophenyl)thiophen-2-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 23.8 mg, 40% | Cl.Cl.ClC1=C(C=CC=C1)C1=CC=C(S1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C21H20ClN3O2S.2ClH/c22-18-6-2-1-5-17(18)19-7-8-20(28-19)21(26)25-11-10-24-12-15(25)14-27-16-4-3-9-23-13-16;;/h1-9,13,15,24H,10-12,14H2;2*1H
